US06875788B2
(4-Methylcyclohexylidene)(3-thienyl)acetonitrile
The expected intermediate is obtained in the manner described in General Protocol A starting from 3-thienylacetonitrile and 4-methylcyclohexanone.

reactant | 3-thienylacetonitrile | S1C=C(C=C1)CC#N | C6H5NS
reactant | 4-methylcyclohexanone | CC1CCC(CC1)=O | C7H12O
product | (4-Methylcyclohexylidene)(3-thienyl)acetonitrile | CC1CCC(CC1)=C(C#N)C1=CSC=C1 | C13H15NS
